US05459243
A sample of 3', 5'-di-O-benzoyl-2'-O-methyl-uridine (0.80 g, 17 mmoles) was deprotected in a mixture of methanol (65 ml) and concentrated ammonium hydroxide (35 ml) overnight at room temperature. The solution was allowed to evaporate to an oil in the fume hood. The residue was triturated with ether (100 ml). The resulting solid was rinsed with ether and dried to afford 0.38 g (86%) of 2'-O-methyluridine as a white solid, mp 158°-159° C. (lit. C. Chavis, ibid., mp 156°-159° C.). (DMSO-d6): δ3.34 (s, 3H, OCH3), 3.5-3.7 (m, 2H, H-5'), 3.7-3.9 (m, 2H, H-3',4'), 4.14 (m, 1H, H-2'), 5.19 (m, 2H, 3',5'--OH), 5.66 (d, J=8 Hz, 1H, H-5), 5.87 (d, J=5 Hz, 1H, H-1'), 7.95 (d, J=8 Hz, 1H, H-6), 11.35 (br s, 1H, N--H). Anal. calcd for C10H14N2O6 (258.23): C, 46.51; H, 5.46; N, 10.85. Found: C, 46.57; H, 5.49; N, 10.82.

reactant | 3', 5'-di-O-benzoyl-2'-O-methyl-uridine | 17 mmoles, 0.80 g | C(C1=CC=CC=C1)(=O)O[C@H]1[C@H]([C@@H](O[C@@H]1COC(C1=CC=CC=C1)=O)N1C(=O)NC(=O)C=C1)OC | C24H22N2O8
reactant | ammonium hydroxide | 35 ml | [OH-].[NH4+]
solvent | methanol | 65 ml | CO | CH4O
product | 2'-O-methyluridine | 0.38 g, 86% | CO[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)NC(=O)C=C1 | C10H14N2O6
